US07652049B2
To a solution of 3-((4S,5R)-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-2-oxo-1,3-oxazolidin-5-yl)benzaldehyde (15 mg, 0.028 mmol) in EtOH (1 mL) was added dimethylamine (140 μL of a 2.0 M solution in MeOH) and titanium isopropoxide (79 μL, 0.28 mmol). The resulting white suspension was stirred overnight. Sodium borohydride (7.1 mg, 0.188 mmol) was added and the mixture was stirred overnight. The reaction was quenched by pouring the mixture into 2N aqueous ammonia (2 mL). The resulting inorganic precipitate was filtered and washed with dichloromethane. The combined filtrates were extracted with dichloromethane (2×15 mL). The extracts were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (Si) to give (4S,5R)-5-{3-[(dimethylamino)methyl]phenyl}-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=559.25; found=559.4 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 7.74 (s, 0.5H); 7.67 (s, 0.5H); 7.64 (s, 0.5H); 7.62 (s, 0.5H); 7.37-7.29 (m, 3H); 7.18 (s, 1H); 7.16 (s, 0.5H); 7.13 (s, 0.5H); 7.01 (d, J=8.4 Hz, 0.5H); 6.99 (d, J=8.5 Hz, 0.5H); 6.71 (d, J=3.0 Hz, 0.5H); 6.68 (d, J=2.9 Hz, 0.5H); 5.52 (d, J=8.1 Hz, 0.5H); 5.37 (d, J=8.0 Hz, 0.5H); 4.82 (d, J=15.9 Hz, 0.5H); 4.77 (d, J=16.0 Hz, 0.5H); 4.15 (d, J=16.0 Hz, 0.5H); 3.91 (d, J=15.9 Hz, 0.5H); 3.76 (s, 3H); 3.80-3.73 (m, 0.5H); 3.72-3.68 (m, 0.5H); 3.43 (s, 2H); 3.25-3.18 (m, 1H); 2.23 (s, 6H); 1.27 (m, 4.5H); 1.19 (d, J=6.9 Hz, 1.5H); 0.53 (d, J=6.5 Hz, 1.5H); 0.39 (d, J=6.6 Hz, 1.5H).

reactant | 3-((4S,5R)-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-2-oxo-1,3-oxazolidin-5-yl)benzaldehyde | 0.028 mmol, 15 mg | FC1=CC(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C=1C=C(C=O)C=CC1)=O)OC | C29H27F4NO4
reactant | dimethylamine | CNC | C2H7N
reactant | Sodium borohydride | 0.188 mmol, 7.1 mg | [BH4-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | MeOH | CO | CH4O
catalyst | titanium isopropoxide | 0.28 mmol, 79 μL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (4S,5R)-5-{3-[(dimethylamino)methyl]phenyl}-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | CN(C)CC=1C=C(C=CC1)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=C(C(=C1)C(C)C)F)OC)C | C31H34F4N2O3
